.SUBCKT AOI33X4H7R A0 A1 A2 B0 B1 B2 VDD VSS Y
*.PININFO A0:I A1:I A2:I B0:I B1:I B2:I Y:O VDD:B VSS:B
MMNM5 Y A2 net20 VSS nm1p2_svt_lp W=600n L=60n m=1
MMNM4 Y B2 net19 VSS nm1p2_svt_lp W=600n L=60n m=1
MMNM3 net20 A1 net21 VSS nm1p2_svt_lp W=600n L=60n m=1
MMNM2 net19 B1 net18 VSS nm1p2_svt_lp W=600n L=60n m=1
MMNM1 net21 A0 VSS VSS nm1p2_svt_lp W=600n L=60n m=1
MMNM0 net18 B0 VSS VSS nm1p2_svt_lp W=600n L=60n m=1
MMPM5 Y B1 net13 VDD pm1p2_svt_lp W=760n L=60n m=1
MMPM4 net13 A1 VDD VDD pm1p2_svt_lp W=760n L=60n m=1
MMPM3 net13 A2 VDD VDD pm1p2_svt_lp W=760n L=60n m=1
MMPM2 net13 A0 VDD VDD pm1p2_svt_lp W=760n L=60n m=1
MMPM1 Y B2 net13 VDD pm1p2_svt_lp W=760n L=60n m=1
MMPM0 Y B0 net13 VDD pm1p2_svt_lp W=760n L=60n m=1
.ENDS
