.SUBCKT AOI31X1P4H7R A0 A1 A2 B0 VDD VSS Y
*.PININFO A0:I A1:I A2:I B0:I Y:O VDD:B VSS:B
MMN5 net6 A0 VSS VSS nm1p2_svt_lp W=245n L=60n m=1
MMN4 net5 A1 net6 VSS nm1p2_svt_lp W=245n L=60n m=1
MMN1 Y A2 net5 VSS nm1p2_svt_lp W=245n L=60n m=1
MMN0 Y B0 VSS VSS nm1p2_svt_lp W=245n L=60n m=1
MMP2 Y B0 net8 VDD pm1p2_svt_lp W=314n L=60n m=1
MMP3 net8 A1 VDD VDD pm1p2_svt_lp W=314n L=60n m=1
MMP1 net8 A2 VDD VDD pm1p2_svt_lp W=314n L=60n m=1
MMP0 net8 A0 VDD VDD pm1p2_svt_lp W=314n L=60n m=1
.ENDS
