.SUBCKT AOI2XB1X1H7R A0 A1N B0 VDD VSS Y
*.PININFO A0:I A1N:I B0:I Y:O VDD:B VSS:B
MMNM3 net15 A0 VSS VSS nm1p2_svt_lp W=210n L=60n m=1
MMNM2 Y net6 net15 VSS nm1p2_svt_lp W=210n L=60n m=1
MMNM0 Y B0 VSS VSS nm1p2_svt_lp W=210n L=60n m=1
MMPM2 Y B0 net8 VDD pm1p2_svt_lp W=270n L=60n m=1
MMPM1 net8 net6 VDD VDD pm1p2_svt_lp W=270n L=60n m=1
MMPM0 net8 A0 VDD VDD pm1p2_svt_lp W=270n L=60n m=1
XXI3 A1N VDD VSS net6 / INV pl=60n pw=190n nl=60n nw=150n
.ENDS
