.SUBCKT BUFX12H7R A VDD VSS Y
*.PININFO A:I Y:O VDD:B VSS:B
XXI1 net6 VDD VSS Y / INV pl=6e-08 pw=2.28e-06 nl=6e-08 nw=1.8e-06
XXI0 A VDD VSS net6 / INV pl=6e-08 pw=9.3e-07 nl=6e-08 nw=7.5e-07
.ENDS
