.SUBCKT BUFX16H7R A VDD VSS Y
*.PININFO A:I Y:O VDD:B VSS:B
XXI1 net6 VDD VSS Y / INV pl=6e-08 pw=3.04e-06 nl=6e-08 nw=2.4e-06
XXI0 A VDD VSS net6 / INV pl=6e-08 pw=1.14e-06 nl=6e-08 nw=9e-07
.ENDS
