.SUBCKT BUFX20H7R A VDD VSS Y
*.PININFO A:I Y:O VDD:B VSS:B
XXI1 net6 VDD VSS Y / INV pl=6e-08 pw=38e-07 nl=6e-08 nw=32e-07
XXI0 A VDD VSS net6 / INV pl=6e-08 pw=15.2e-07 nl=6e-08 nw=12e-07
.ENDS
