.SUBCKT DFFNQX2H7R CKN D Q VDD VSS
*.PININFO CKN:I D:I Q:O VDD:B VSS:B
XXI9 net73 net76 net71 VDD VSS net64 / TSINV pl=60n pw=190n nl=60n nw=150n
XXI6 D net71 net76 VDD VSS net68 / TSINV pl=60n pw=210n nl=60n nw=170n
XXI15 net61 net71 net76 VDD VSS net64 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI14 net73 net76 net71 VDD VSS net68 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI4 CKN VDD VSS net76 / INV pl=60n pw=210n nl=60n nw=170n
XXI7 net68 VDD VSS net73 / INV pl=60n pw=200n nl=60n nw=160n
XXI13 net76 VDD VSS net71 / INV pl=60n pw=210n nl=60n nw=170n
XXI12 net64 VDD VSS Q / INV pl=60n pw=380n nl=60n nw=300n
XXI10 net64 VDD VSS net61 / INV pl=60n pw=210n nl=60n nw=170n
.ENDS
